US07989438B2
Step 2: Dimethyl 13-cyclohexyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-6,10-dicarboxylate
Dimethyl 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-6,10-dicarboxylate was dissolved in anhydrous MeOH (0.05M) and HOAc was added. The mixture was treated with a 37% solution of HCHO in water (1.2 eq), then NaCNBH3 (1.2 eq) was added. The solution was stirred for 2 h at RT. The product was isolated by FC (PE:EtOAc, 9:1, 0.5% NEt3). After evaporation of the solvents a colourless solid was obtained (quant.). (ES+) m/z 447 (M+H)+.

reactant | Dimethyl 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-6,10-dicarboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(NC3=C(C21)C=CC=C3)C(=O)OC)C(=O)OC | C26H28N2O4
reactant | HCHO | C=O | CH2O
reactant | water | 1.2 eq | O | H2O
reactant | NaCNBH3 | 1.2 eq | [BH3-]C#N.[Na+]
solvent | MeOH | 0.05M | CO | CH4O
solvent | NEt3 | CCN(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HOAc | CC(=O)O | C2H4O2
product | Dimethyl 13-cyclohexyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-6,10-dicarboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(N(C3=C(C21)C=CC=C3)C)C(=O)OC)C(=O)OC | C27H30N2O4
